### PR TITLE
[Merged by Bors] - feat(Topology/Instances/EReal): limsup of multiplication by a constant

### PR DESCRIPTION
**Pull request by jvanwinden**
add an analogue of `limsup_const_mul_of_ne_top` which applies to `EReal` instead of `ENNReal`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Instances/EReal/Lemmas.lean [hunk 1]
```diff
@@ -300,6 +300,22 @@ lemma liminf_add_top_of_ne_bot (h : liminf u f = ⊤) (h' : liminf v f ≠ ⊥)
   apply top_le_iff.1 (le_trans _ le_liminf_add)
   rw [h, top_add_of_ne_bot h']
 
+theorem limsup_const_mul_of_nonneg_of_ne_top [NeBot f] {c : EReal} (h₁ : 0 ≤ c) (h₂ : c ≠ ⊤) :
+    limsup (fun x => c * u x) f = c * limsup u f := by
+  by_cases! h₃ : c ≤ 0
```
Comment (vihdzp) [inline Mathlib/Topology/Instances/EReal/Lemmas.lean]: You can use `obtain rfl | h₃ := h₁.eq_or_lt`  to more directly get the casing you want.

Comment (jvanwinden) [reply Mathlib/Topology/Instances/EReal/Lemmas.lean]: Thanks! I did not know about this use of `rfl` before.

File: Mathlib/Topology/Instances/EReal/Lemmas.lean [hunk 2]
```diff
@@ -300,6 +300,22 @@ lemma liminf_add_top_of_ne_bot (h : liminf u f = ⊤) (h' : liminf v f ≠ ⊥)
   apply top_le_iff.1 (le_trans _ le_liminf_add)
   rw [h, top_add_of_ne_bot h']
 
+theorem limsup_const_mul_of_nonneg_of_ne_top [NeBot f] {c : EReal} (h₁ : 0 ≤ c) (h₂ : c ≠ ⊤) :
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/EReal/Lemmas.lean:308]: I guess the `c ≠ ⊤` is required because `⊥` is absorbing under multiplication on `EReal`?

File: Mathlib/Topology/Instances/EReal/Lemmas.lean [hunk 3]
```diff
@@ -300,6 +300,22 @@ lemma liminf_add_top_of_ne_bot (h : liminf u f = ⊤) (h' : liminf v f ≠ ⊥)
...
+    limsup (fun x => c * u x) f = c * limsup u f := by
+  obtain rfl | h₃ := h₁.eq_or_lt
+  · simp
+  simp_rw [EReal.mul_comm (x := c)]
+  apply eq_of_le_of_ge
+  · rw [limsup_le_iff]
+    intro r hr
+    rw [gt_iff_lt] at hr
+    simp_rw [← EReal.lt_div_iff (by aesop) (by aesop)] at *
+    apply eventually_lt_of_limsup_lt (hu := by isBoundedDefault) hr
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/EReal/Lemmas.lean]:
```suggestion
    simpa [← EReal.lt_div_iff (by aesop) (by aesop)]
      using fun _ ↦ eventually_lt_of_limsup_lt
```

File: Mathlib/Topology/Instances/EReal/Lemmas.lean [hunk 4]
```diff
@@ -300,6 +300,22 @@ lemma liminf_add_top_of_ne_bot (h : liminf u f = ⊤) (h' : liminf v f ≠ ⊥)
...
+  · rw [le_limsup_iff]
+    intro r hr
+    simp_rw [← EReal.div_lt_iff (by aesop) (by aesop)] at *
+    apply frequently_lt_of_lt_limsup (hu := by isBoundedDefault) hr
```
Comment (j-loreaux) [inline Mathlib/Topology/Instances/EReal/Lemmas.lean]: I'm fairly certain this would work:
```suggestion
    simpa [← EReal.lt_div_iff (by aesop) (by aesop)]
      using fun _ ↦ frequently_lt_of_lt_limsup
```
Except for the fact that `frequently_lt_of_lt_limsup` (and also `frequently_lt_of_liminf_lt`) has its autoparam arguments (the `isBoundedDefault` ones) in the wrong place. Those should always come *last* in the argument order.

Can you change the argument order on those lemmas please?

**Review by j-loreaux — COMMENTED** [review]
Can you also add a `liminf` version, and maybe also versions with `c ≤ 0`?

File: Mathlib/Topology/Instances/EReal/Lemmas.lean (hunk 2 above)
Comment (jvanwinden) [reply Mathlib/Topology/Instances/EReal/Lemmas.lean:308]: The sequence 1 / n shows that the theorem fails when `c = ⊤`. The issue here is that `0 * ⊤ = 0`.

File: Mathlib/Topology/Instances/EReal/Lemmas.lean (hunk 4 above)
Comment (jvanwinden) [reply Mathlib/Topology/Instances/EReal/Lemmas.lean]: It does work after using `EReal.div_lt_iff` instead of `EReal.lt_div_iff` (as you accidentally did). 

I left the swapping of the `isBoundedDefault` arguments for another time.

**Comment by jvanwinden** [comment]
I created the additional `liminf` and `c ≤ 0` versions of the lemmas. All are easy consequences of `limsup_const_mul_of_nonneg_of_ne_top`.

**Comment by jvanwinden** [comment]
-awaiting-author

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
